US06562811B1
To a stirred solution of tert-butyl 3-{2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-[(phenylsulfanyl)methyl]-4-pyridinyl}-1-piperidinecarboxylate in 1,4-dioxane (2 mL) was added 4N HCl in dioxane (2 mL). The mixture was stirred at room temperature overnight, and diluted with ethyl acetate. The resulting precipitate was collected by filtration, washed with ethanol, and dried under reduced pressure to give 2-[6-amino-5-[(phenylsulfanyl)methyl]4-(3-piperidinyl)-2-pyridinyl]-3-(cyclopropylmethoxy)phenol hydrochloride.

reactant | tert-butyl 3-{2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-[(phenylsulfanyl)methyl]-4-pyridinyl}-1-piperidinecarboxylate | NC1=NC(=CC(=C1CSC1=CC=CC=C1)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C40H47N3O5S
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[6-amino-5-[(phenylsulfanyl)methyl]4-(3-piperidinyl)-2-pyridinyl]-3-(cyclopropylmethoxy)phenol hydrochloride | Cl.NC1=C(C(=CC(=N1)C1=C(C=CC=C1OCC1CC1)O)C1CNCCC1)CSC1=CC=CC=C1 | InChI=1S/C27H31N3O2S.ClH/c28-27-22(17-33-20-7-2-1-3-8-20)21(19-6-5-13-29-15-19)14-23(30-27)26-24(31)9-4-10-25(26)32-16-18-11-12-18;/h1-4,7-10,14,18-19,29,31H,5-6,11-13,15-17H2,(H2,28,30);1H
